US05468751
Preparation of 4-chloro-5-bromo-6-ethylpyrimidine
29.7 g (0.146 mol) of 4-hydroxy-5-bromo-6-ethylpyrimidine are introduced slowly into 27.3 g (0.178 mol) of phosphorus oxychloride. The suspension dissolves on heating to 70° C.; the reaction is slightly exothermic. The temperature is kept at 70° C. for 11/2 hours and, after cooling, the solution is poured onto ice-water and neutralised carefully to pH 5-7, at 0° C., with 30% sodium hydroxide solution. Extraction with ethyl acetate yields, after removal of the solvent, 30.4 g of crude product. Distillation yields 23.9 g (73.9% of the theoretical yield) of pure substance having a boiling point of 112°-114° C./24 mbar.

reactant | 4-hydroxy-5-bromo-6-ethylpyrimidine | 0.146 mol, 29.7 g | OC1=NC=NC(=C1Br)CC | C6H7BrN2O
reactant | phosphorus oxychloride | 0.178 mol, 27.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-chloro-5-bromo-6-ethylpyrimidine | ClC1=NC=NC(=C1Br)CC | C6H6BrClN2
